US07897597B2
7-Benzyloxy-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (3.9 g, 9.99 mmol), prepared in Example 44, was mixed with ethanol and added to a Parr flask charged with 10% palladium on carbon (0.390 g) in ethanol. The flask was placed under hydrogen pressure and shaken for 18 hours. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with warm DMF. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from methanol to yield 2.4 g of 4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol as a white solid, mp>250° C.

reactant | 7-Benzyloxy-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 9.99 mmol, 3.9 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCC)COCC | C23H26N4O2
catalyst | palladium on carbon | 0.390 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-7-ol | 2.4 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCC)COCC)O | C16H20N4O2
